US04952692
A. (3R-cis)-3-(Acetyloxy)-1,3,4,5-tetrahydro-4-(4-methoxyphenyl)-1-[2-(methylamino)ethyl]-6-(trifluoromethyl)-2H-1-benzazepin-2-one
A solution of 3.0 g of (3R-cis)-3-(acetyloxy)-1,3,4,5-tetrahydro-4-(4-methoxyphenyl)-1-[2-(methylamino) ethyl]-6-(trifluoromethyl)-2H-1-benzazepin-2-one, monohydrochloride, prepared as described in U.S. Pat. No. 4,748,239, Example 43, in 15 ml of water was treated with 75 ml of ethyl acetate, followed by the portionwise addition of a solution of 1.3 g of sodium hydrogen carbonate in 10 ml of water. The mixture was shaken and the sl. alkaline aqueous phase was discarded. The organic phase was extracted with 10 ml of water (2×) and then with 10 ml of saturated sodium chloride solution, dried over magnesium sulfate, filtered thorugh a celite bed, and the colorless filtrate was concentrated on a rotary evaporator to give 2.32 g of a colorless solid. The latter was suspended in 15 ml of hexane and filtered to give 2.19 g (90%) of the title A compound as a colorless solid, m.p. 140°-143° C.

reactant | (3R-cis)-3-(acetyloxy)-1,3,4,5-tetrahydro-4-(4-methoxyphenyl)-1-[2-(methylamino) ethyl]-6-(trifluoromethyl)-2H-1-benzazepin-2-one, monohydrochloride | 3.0 g | Cl.C(C)(=O)O[C@H]1C(N(C2=C(C[C@H]1C1=CC=C(C=C1)OC)C(=CC=C2)C(F)(F)F)CCNC)=O
reactant | ethyl acetate | 75 ml | C(C)(=O)OCC | C4H8O2
reactant | sodium hydrogen carbonate | 1.3 g | C(O)([O-])=O.[Na+]
solvent | water | 15 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | (3R-cis)-3-(Acetyloxy)-1,3,4,5-tetrahydro-4-(4-methoxyphenyl)-1-[2-(methylamino)ethyl]-6-(trifluoromethyl)-2H-1-benzazepin-2-one | 2.32 g | C(C)(=O)O[C@H]1C(N(C2=C(C[C@H]1C1=CC=C(C=C1)OC)C(=CC=C2)C(F)(F)F)CCNC)=O | C23H25F3N2O4
